*
* Have atleast 3 lines of space for some reason otherwise eldo glitches out
*

.include /modelfile_65nm/minNminP.cir
.include mdt_sm1.pex.spi

X1 BL BLB Q QB SAF SAT SAen gnd pch vdd mdt_sm1  

.param SUPPLY = 1.08
.param tend = 4n
.TEMP = 125

* FSM STAGES
*
* Start BL,BLB at HIGH (precharge BL)
* Read operation begins (BLB discharges)
* Sense amplifier enable (t = 150 ps)
* Differential amplification
* SA output -> Output latch
* De-assert SAen
* Precharge SA
* Precharge BL


* POWER
v_dd vdd 0 SUPPLY
v_gnd gnd 0 0

* BitLines
v_bl BL 0 PWL(
+	0 {SUPPLY}
* +	2n {SUPPLY}
* + 	3.5n 0.88
		)

v_blb BLB 0 PWL(
+				0 {SUPPLY} 
+				1.5n 0.70
* +				1m 0.98
* +				2n {SUPPLY}
+)

* (0.88-1.08)/(1.5-0) = x
* (x-1.08) / 1.5 = -0.100
* x - 1.08= -0.150
* 0.93

* Pre-charge (active low)
v_pch pch gnd PULSE (0 {SUPPLY} 50p 10p 10p 250p 4n)
* v_pch pch gnd {SUPPLY}

* (low_voltage high_voltage starting_delay rise_time fall_time on_pulse_width time_period)
v1 SAen gnd PULSE (0 {SUPPLY} 150p 10p 10p 100p 4n)

.meas tran DELAY TRIG v(SAen) val={SUPPLY*0.9} rise=1 
+                TARG v(Q)    val={SUPPLY*0.1} fall=1

* E_DIFF diff_node 0 VOL='v(SAF)-v(SAT)'
* E_COND cond_node 0 VOL='v(Q)-v(QB)'
* .meas tran DIFF FIND v(diff_node) WHEN v(cond_node)=0

E_DIFF diff_node 0 VOL='v(SAF)-v(SAT)'
.meas tran DIFF FIND v(diff_node) WHEN v(SAen)={1.08*0.9}

*.mc 1000

.IC V(Q) = 1.08
.IC V(QB) = 0

.probe v(*) v(X1.*)
.probe i(*)

.tran 1p tend
